US03945984
0.3 mol % of sodium hydride and 0.3 mol % of the co-catalyst according to the Example 15 were dissolved in molten laurolactam. After 120 minutes at 160°C the polymerizate contained almost the equilibrium amount of the polyamide. Similar result was obtained with caprylolactam.

reactant | sodium hydride | [H-].[Na+]
reactant | laurolactam | C1(CCCCCCCCCCCN1)=O | C12H23NO
product | caprylolactam | C1(CCCCCCCN1)=O | C8H15NO
